US05861417
Add a hot solution of 3-phenyl-3-(2-hydroxyethyl)pyrrolidine (5.0 g, 20.2 mmol) in ethanol (100 mL) to a refluxing solution of (R,R)-di-p-anisoyltartaric acid (16.46 g, 20.2 mmol), containing a small amount of acetone) in ethanol (200 mL). After the addition is complete, slowly cool to ambient temperature to give a solid. Collect the solid by filtration and recrystallize the solid three times from ethanol to give (-)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt: mp; 1716.0°-179.0° C. Elemental Analysis calculated for C12H17NO · C20H18O10 : C 63.05; H 5.79; N 2.30; Found: C 62.72; H 5.80; N 2.33. After conversion of a sample to the 3,4,5-trimethoxybenzamide and analysis on HPLC by the method of Example 3.3.4 indicates an enantiomeric excess of 99.9%, (99.9% ee), retention time 22.30 minutes for the 3,4,5-trimethoxybenzamide prepared from the (-)-isomer of the (R,R)-di-p-anisoyltartaric acid salt.

reactant | 3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 20.2 mmol, 5.0 g | C1(=CC=CC=C1)C1(CNCC1)CCO | C12H17NO
reactant | (R,R)-di-p-anisoyltartaric acid | 20.2 mmol, 16.46 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (-)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.C1(=CC=CC=C1)C1(CNCC1)CCO | InChI=1S/C20H18O10.C12H17NO/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;14-9-7-12(6-8-13-10-12)11-4-2-1-3-5-11/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-5,13-14H,6-10H2/t19-,20-;/m1./s1
